US06900336B2
To 60% sodium hydride in mineral oil (20 mg, 0.51 mmol) was added a DME solution (5 mL) of [2-(3-benzyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester (164 mg, 0.51 mmol). After 1.5 h a DME solution (5 mL) of 7-((R)-2-formyl-5-oxo-pyrrolidin-1-yl)-heptanoic acid ethyl ester (126 mg, 0.47 mmol) was added. The reaction mixture was stirred for 45 min. at room temperature then diluted with ethyl acetate and washed with an aqueous NaHCO3 solution. The organic layer was dried over MgSO4, filtered and concentrated. The residue was subjected to column chromatography (2.5 ethyl acetate: 1 hexanes) to provide 7-{(R)-2-[(E)-3-(3-benzyl-phenyl)-3-hydroxy-propenyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid ethyl ester (112 mg, 0.24 mmol) as an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | DME | 5 mL | COCCOC | C4H10O2
reactant | [2-(3-benzyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | 0.51 mmol, 164 mg | COP(OC)(=O)CC(=O)C1=CC(=CC=C1)CC1=CC=CC=C1 | C17H19O4P
reactant | DME | 5 mL | COCCOC | C4H10O2
reactant | 7-((R)-2-formyl-5-oxo-pyrrolidin-1-yl)-heptanoic acid ethyl ester | 0.47 mmol, 126 mg | C(C)OC(CCCCCCN1[C@H](CCC1=O)C=O)=O | C14H23NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-{(R)-2-[(E)-3-(3-benzyl-phenyl)-3-hydroxy-propenyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid ethyl ester | 0.24 mmol, 112 mg | C(C)OC(CCCCCCN1[C@H](CCC1=O)\C=C\C(O)C1=CC(=CC=C1)CC1=CC=CC=C1)=O | C29H37NO4
